US04980350
(a) 2 Hydroxy-4,5,6-trimethylpyrimidine
To 3.65 g (32 mmol) of 3-methyl-2,4-pentanedione in ethanol (15 ml) was added urea (1.92 g; 32 mmol) followed by 3 drops concentrated HCl. This mixture was refluxed under N2 overnight (12 hours). Upon cooling a solid separated which was filtered off and washed with cold ethanol and ethyl ether. Drying on the pad gave an off-white tlc pure solid. NMR (d6 -DMSO, δ from TMS): 1.94(S, 5-CH3), 2.22(S, 4, 6 -CH3S), 5.47 (br S, OH). Mass spectroscopy showed M+ at m/e 138.

reactant | 3-methyl-2,4-pentanedione | 32 mmol, 3.65 g | CC(C(C)=O)C(C)=O | C6H10O2
reactant | urea | 32 mmol, 1.92 g | NC(=O)N | CH4N2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | HCl | 3 drops | Cl | ClH
product | Hydroxy-4,5,6-trimethylpyrimidine | OC1=NC(=C(C(=N1)C)C)C | C7H10N2O
